US04638000
A mixture of 3(R)-amino-2,3-dihydro-1,5(5H)-benzothiazepin-4-one (2.7 g) and ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-methanesulfonyloxyhexanoate (5.4 g) is heated at 100°-130° C. for 3 hours. After cooling, the mixture is dissolved in ethylacetate (200 ml) and the solution is washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue is purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]amino-2,3-dihydro-1,5(5H)-benzothiazepin-4-one (2.9 g) as a colorless oil.

reactant | 3(R)-amino-2,3-dihydro-1,5(5H)-benzothiazepin-4-one | 2.7 g | N[C@H]1CSC2=C(NC1=O)C=CC=C2 | C9H10N2OS
reactant | ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-methanesulfonyloxyhexanoate | 5.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)OS(=O)(=O)C | C22H33NO7S
solvent | ethylacetate | 200 ml | C(C)OC(C)=O | C4H8O2
product | 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]amino-2,3-dihydro-1,5(5H)-benzothiazepin-4-one | 2.9 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)N[C@H]1CSC2=C(NC1=O)C=CC=C2 | C30H39N3O5S
